US09382238B2
To a mixture of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (70.9 mg, 0.172 mmol) and 3-(2-morpholinoethoxy)-5-(trifluoromethyl)aniline (50 mg, 0.172 mmol) in pyridine (5 mL) was added T3P® (50% in EA, 0.3 mL) dropwise and the mixture was stirred at 25° C. for 1 h. The mixture was quenched with cold water (20 mL), extracted with DCM/MeOH (10:1, v/v, 20 mL×3). The organic layer was dried over Na2SO4 and concentrated to give an off white solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(2-morpholinoethoxy)-5-(trifluoromethyl)phenyl)acetamide (80 mg, 0.111 mmol, 64.5% yield): 1H NMR (400 MHz, CD3OD): δ 7.94 (d, J=1.8 Hz, 1H), 7.54 (s, 1H), 7.48 (s, 1H), 7.45-7.35 (m, 6H), 6.95-6.88 (m, 3H), 5.35 (s, 2H), 4.20-4.10 (m, 4H), 3.80 (s, 2H), 3.78 (s, 3H), 3.73-3.66 (m, 4H), 2.81 (t, J=5.4 Hz, 2H), 2.59 (d, J=4.2 Hz, 4H), 1.41 (t, J=6.8 Hz, 3H). ES-LCMS m/z: 684 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.172 mmol, 70.9 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 3-(2-morpholinoethoxy)-5-(trifluoromethyl)aniline | 0.172 mmol, 50 mg | O1CCN(CC1)CCOC=1C=C(N)C=C(C1)C(F)(F)F | C13H17F3N2O2
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(2-morpholinoethoxy)-5-(trifluoromethyl)phenyl)acetamide | 0.111 mmol, 80 mg, 64.5% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=CC(=C1)C(F)(F)F)OCCN1CCOCC1)F | C36H37F4N3O6
